US07989462B2
(2-Methyl-quinazolin-4-yl)-(4-methylamino-phenyl)-methylamine
A mixture of (2-methyl-quinazolin-4-yl)-(N-methyl-4-acetamido-phenyl)-methylamine (103 mg, 0.321 mmol) in 3 mL of methanol and 3 mL of 2N NaOH was heated at 90° C. for 4 h. The reaction mixture was cooled to room temperature and diluted 25 mL of ethyl acetate. It was washed with saturated NaHCO3, and the organic layer was dried over anhydrous Na2SO4, filtered and concentrated. The crude was purified by column chromatography (40% ethyl acetate/hexane) to give the title compound (28 mg, 0.10 mmol, 31%). 1H NMR (CDCl3): 7.71 (m, 1H), 7.50 (ddd, J=8.4, 6.9, 1.5, 1H), 6.93-7.11 (m, 4H), 6.60 (m, 2H), 3.84 (s, broad, 1H), 3.57 (s, 3H), 2.87 (s, 3H), 2.70 (s, 3H).

reactant | (2-methyl-quinazolin-4-yl)-(N-methyl-4-acetamido-phenyl)-methylamine | 0.321 mmol, 103 mg | CC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)N(C(C)=O)C | C19H20N4O
reactant | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 3 mL | CO | CH4O
solvent | NaOH | 2N, 3 mL | [OH-].[Na+]
product | (2-Methyl-quinazolin-4-yl)-(4-methylamino-phenyl)-methylamine | 0.10 mmol, 28 mg, 31% | CC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)NC | C17H18N4
